US08193121B2
Step 2: Synthesis of 2-fluoro-3-methylthio-4-(trifluoromethyl)benzoic acid
Under an atmosphere of inert gas, 27.5 ml (1.6 M in hexane, 44 mmol) of n-butyllithium were added dropwise to a solution, cooled to −78° C., of 7.98 g (38 mmol) of 1-fluoro-2-methylthio-3-(trifluoromethyl)benzene in 60 ml of anhydrous THF, where the temperature of the reaction mixture should not exceed −65° C. The mixture was stirred at −78° C. for 3 h, and at this temperature a carbon dioxide stream was then introduced such that the temperature of the reaction mixture did not exceed −45° C. The mixture was then warmed to RT and then once more cooled to 0° C. For work-up, water was added dropwise at this temperature until the precipitate formed had dissolved. Diethyl ether was added, and the organic phase was extracted three times with water. The combined aqueous phases were acidified with 10 percent strength hydrochloric acid. The aqueous phase was extracted repeatedly with dichloromethane, the combined organic phases were washed with saturated aqueous NaCl solution and dried over sodium sulfate and the filtrate was then freed from the solvent. The crude product obtained in this manner was then recrystallized from gasoline (80-110° C.)/ethyl acetate. This gave 6.8 g of 2-fluoro-3-methylthio-4-(trifluoromethyl)benzoic acid.

reactant | n-butyllithium | 44 mmol, 1.6 M, 27.5 ml | C(CCC)[Li]
reactant | 1-fluoro-2-methylthio-3-(trifluoromethyl)benzene | 38 mmol, 7.98 g | FC1=C(C(=CC=C1)C(F)(F)F)SC | C8H6F4S
reactant | carbon dioxide | C(=O)=O | CO2
reactant | water | O | H2O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 2-fluoro-3-methylthio-4-(trifluoromethyl)benzoic acid | FC1=C(C(=O)O)C=CC(=C1SC)C(F)(F)F | C9H6F4O2S
